US04997841
5-Bromo-3-[1,2,3,6-tetrahydro-1-(phenylmethyl)-4-pyridinyl]-1H-indole
Freshly distilled 1-Benzyl-4-piperidone (11.7 g) was added to a stirred solution of 5-bromoindole (11.0 g) in 2M potassium hydroxide in methanol (81ml). The mixture was stirred at reflux for 8 h and then allowed to cool to 25° over 8 h. The solid was collected by filtration, washed with a mixture of methanol:water (2:1, 2×15 ml) and dried in vacuo at 50° for 18 h to give the title compound as a crystalline solid (18.6 g) m.p. 173°-175° (decomp).

reactant | 1-Benzyl-4-piperidone | 11.7 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | 5-bromoindole | 11.0 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
solvent | potassium hydroxide | 2M | [OH-].[K+]
solvent | methanol | 81ml | CO | CH4O
product | 5-Bromo-3-[1,2,3,6-tetrahydro-1-(phenylmethyl)-4-pyridinyl]-1H-indole | 18.6 g | BrC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CC1=CC=CC=C1 | C20H19BrN2
